US04165229
1,1-Dimethyl-3-[5-(N-methyl-N-propylsulfamoyl)-1,3,4-thiadiazol-2-yl]urea
3-[5-(N-methylsulfamoyl)-1,3,4-thiadiazol-2-yl]-1,1-dimethylurea, from 4 g. of the carbamic acid, phenyl ester, above, and 3 g. of diethylamine hydrochloride. The product had a melting point of about 152°-153° C. and weighed 1.5 g.

reactant | 3-[5-(N-methylsulfamoyl)-1,3,4-thiadiazol-2-yl]-1,1-dimethylurea | CNS(=O)(=O)C1=NN=C(S1)NC(N(C)C)=O | C6H11N5O3S2
reactant | carbamic acid, phenyl ester | C(N)(OC1=CC=CC=C1)=O | C7H7NO2
reactant | diethylamine hydrochloride | Cl.C(C)NCC
product | 1,1-Dimethyl-3-[5-(N-methyl-N-propylsulfamoyl)-1,3,4-thiadiazol-2-yl]urea | CN(C(=O)NC=1SC(=NN1)S(N(CCC)C)(=O)=O)C | C9H17N5O3S2
